US09278950B2
Step 2. Methyl {(3R,4S,5S)-3-amino-1-[3-({[3-amino-7-(1-methylpiperidin-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidin-4-yl}carbamate
To a solution of tert-butyl methyl {(3R,4S,5S)-1-[3-({[3-{[(benzyloxy)carbonyl]amino}-7-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidine-3,4-diyl}biscarbamate (40 mg, 0.051 mmol) in MeOH (3.0 mL), 10% Pd on carbon (9 mg). The reaction mixture was deoxygenated under reduced pressure and hydrogen was introduced via a balloon. The reaction mixture was stirred at room temperature under hydrogen for 16 h. The mixture was filtered and concentrated under reduced pressure. The resulting residue was dissolved in DCM (2 mL), and TFA (2 mL) was added. The mixture was stirred at room temperature for 30 min. then concentrated under reduced pressure. The residue was purified by preparative LCMS (pH=10 method; XBridge™ preparative C18 5 μm OBD™ column, 30×10 mm, 60 mL/min., eluting with a gradient of MeCN and water with 0.1% NH4OH) to give the title compound as a yellow powder (18 mg, 66%). LCMS calc. for C29H39N8O3 (M+H)+: m/z=547.3. Found: 547.4.

reactant | tert-butyl methyl {(3R,4S,5S)-1-[3-({[3-{[(benzyloxy)carbonyl]amino}-7-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidine-3,4-diyl}biscarbamate | 0.051 mmol, 40 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)C=1CCN(CC1)C)C(=O)NC=1C=NC=CC1N1C[C@H]([C@H]([C@H](C1)C)NC(OC)=O)NC(OC(C)(C)C)=O | C42H50N8O7
solvent | MeOH | 3.0 mL | CO | CH4O
catalyst | Pd on carbon | 9 mg | [Pd] | Pd
product | Methyl {(3R,4S,5S)-3-amino-1-[3-({[3-amino-7-(1-methylpiperidin-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidin-4-yl}carbamate | 18 mg, 66% | N[C@@H]1CN(C[C@@H]([C@@H]1NC(OC)=O)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1N)C1CCN(CC1)C | C29H38N8O3
